US08097758B2
tert-Butyl[4-((2R,3S)-3-benzoylamino-2-hydroxy-3-phenylpropionylamino)benzyl]-carbamate
Analogously to Example 1, Process step 1, 33 mg (0.15 mmol) of tert-butyl (4-aminobenzyl)carbamate and 43 mg (0.15 mmol) of (2R,3S)-3-benzoylamino-2-hydroxy-3-phenylpropionic acid were dissolved in 1 ml of DCM and 1 ml of DMF and treated successively with 78 μl of DIPEA (0.45 mmol), 22.5 mg of HOAt (0.165 mmol) and 76.9 mg (0.165 mmol) of PyBrop. Without further work-up, the batch obtained was filtered and then purified using HPLC. The product-containing fractions were lyophilized.

reactant | tert-butyl (4-aminobenzyl)carbamate | 0.15 mmol, 33 mg | NC1=CC=C(CNC(OC(C)(C)C)=O)C=C1 | C12H18N2O2
reactant | (2R,3S)-3-benzoylamino-2-hydroxy-3-phenylpropionic acid | 0.15 mmol, 43 mg | C(C1=CC=CC=C1)(=O)N[C@H]([C@H](C(=O)O)O)C1=CC=CC=C1 | C16H15NO4
reactant | DIPEA | 0.45 mmol, 78 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | HOAt | 0.165 mmol, 22.5 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | PyBrop | 0.165 mmol, 76.9 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | tert-Butyl[4-((2R,3S)-3-benzoylamino-2-hydroxy-3-phenylpropionylamino)benzyl]-carbamate | C(C)(C)(C)OC(NCC1=CC=C(C=C1)NC([C@@H]([C@H](C1=CC=CC=C1)NC(C1=CC=CC=C1)=O)O)=O)=O | C28H31N3O5
